US08071584B2
1-[(5-Bromo-2-thienyl)methyl]azetidine
The above procedure to make 1-[(5-bromo-2-thienyl)methyl]pyrrolidine was repeated except using azetidine (86 mg, 1.5 mmol) as the amine. Following the purification with the SCX column as described -[(5-bromo-2-thienyl)methyl]pyrrolidine an additional purification step on a 40 g ISCO silica column was necessary to afford the title compound (166 mg) of acceptable purity for use in the next reaction.

reactant | 1-[(5-bromo-2-thienyl)methyl]pyrrolidine | BrC1=CC=C(S1)CN1CCCC1 | C9H12BrNS
reactant | azetidine | 1.5 mmol, 86 mg | N1CCC1 | C3H7N
product | 1-[(5-Bromo-2-thienyl)methyl]azetidine | 166 mg | BrC1=CC=C(S1)CN1CCC1 | C8H10BrNS
